US08748624B2
STEP E: 3-(5-(3-chloro-5-(((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid
A 1M aqueous solution of NaOH (0.47 mL, 0.47 mmol) was added to a THF solution (5 mL) of ethyl 3-(5-(3-chloro-5-(((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate (100 mg, 0.19 mmol) and the resulting mixture was heated to 40° C. After 4 h the resulting mixture was acidified with 1 M HCl and the aqueous phase was extracted with EtOAc. The combined organics were washed with water, dried (Na2SO4), and concentrated to yield the title compound.

reactant | NaOH | 0.47 mmol, 0.47 mL | [OH-].[Na+]
reactant | ethyl 3-(5-(3-chloro-5-(((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | 0.19 mmol, 100 mg | ClC=1C=C(C=C(C1)CNC1=CC=C(C=C1)C1=CC=C(C=C1)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C30H27ClFN3O3
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(5-(3-chloro-5-(((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid | ClC=1C=C(C=C(C1)CNC1=CC=C(C=C1)C1=CC=C(C=C1)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C28H23ClFN3O3
